US07253198B2
To a solution of ethyl 4-amino-3-bromo-5-nitrobenzoate (D213) (27.1 g, 93.1 mmol, 1 equiv) in CH2Cl2 (500 ml) at room temperature was added N,N-diisopropylethylamine (22 ml, 130 mmol, 1.4 equiv) and trifluoroacetic acid anhydride (15.8 ml, 111.7 mmol, 1.2 equiv) and the resulting mixture was stirred for 2 h. N,N-diisopropylethylamine (22 ml, 130 mmol, 1.4 equiv) and trifluoroacetic acid anhydride (15.8 ml, 111.7 mmol, 1.2 equiv) were added and the resulting mixture was stirred for another 2 h. H2O was added and the two layers were separated. The organic phase was washed twice with a 2N aqueous HCl solution, H2O, dried over MgSO4 and concentrated in vacuo. Purification of the residue by flash chromatography on silica gel (iso-hexane/AcOEt: 9/1 to 3/1) gave ethyl 3-bromo-5-nitro-4-[(trifluoroacetyl)amino]benzoate (D214) (29.4 g, 82%) as a yellow solid.

reactant | ethyl 4-amino-3-bromo-5-nitrobenzoate | 93.1 mmol, 27.1 g, 1 equiv | NC1=C(C=C(C(=O)OCC)C=C1[N+](=O)[O-])Br | C9H9BrN2O4
reactant | N,N-diisopropylethylamine | 130 mmol, 22 ml, 1.4 equiv | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoroacetic acid anhydride | 111.7 mmol, 15.8 ml, 1.2 equiv | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | N,N-diisopropylethylamine | 130 mmol, 22 ml, 1.4 equiv | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoroacetic acid anhydride | 111.7 mmol, 15.8 ml, 1.2 equiv | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | H2O | O | H2O
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3-bromo-5-nitro-4-[(trifluoroacetyl)amino]benzoate | 29.4 g, 82% | BrC=1C=C(C(=O)OCC)C=C(C1NC(C(F)(F)F)=O)[N+](=O)[O-] | C11H8BrF3N2O5
